US04530922
Preparation of Allyl[bis(4-fluorophenyl)]-1-chloroethylsilane
A solution of 20 g (63 mmol) of a 1:1 mixture of bis(4-fluorophenyl)-1-chloroethyl(chloro)silane and bis(4-fluorophenyl)-2-chloroethyl(chloro)silane in 100 ml of tetrahydrofuran is treated dropwise with 71 ml (71 mmol) of 1.0 molar allyl magnesium bromide in tetrahydrofuran. The mixture is refluxed two hours, cooled, and diluted with saturated aqueous ammonium chloride and water. The aqueous phase is separated and extracted with ether, and the combined organic phases are washed with water and brine, dried over sodium sulfate, and evaporated to give the title compounds as a 1:1 mixture.

reactant | bis(4-fluorophenyl)-1-chloroethyl(chloro)silane | FC1=CC=C(C=C1)[Si](Cl)(C(C)Cl)C1=CC=C(C=C1)F | C14H12Cl2F2Si
reactant | bis(4-fluorophenyl)-2-chloroethyl(chloro)silane | FC1=CC=C(C=C1)[Si](Cl)(CCCl)C1=CC=C(C=C1)F | C14H12Cl2F2Si
reactant | allyl magnesium bromide | 71 mmol, 1.0 molar, 71 ml | C(C=C)[Mg]Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
product | Allyl[bis(4-fluorophenyl)]-1-chloroethylsilane | C(C=C)[Si](C(C)Cl)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H17ClF2Si
